US09315462B2
Step 1: Synthesis of 2-chloro-4-fluoroquinolin-6-ol
A mixture solution of 2-chloro-4-fluoro-6-methoxyquinoline (see U.S. 61/391,225 for synthesis) (280 mg, 1.32 mmol) and BBr3 (0.3 mL, 3.2 mmol, 2.64 g/mL) in DCM (5 mL) was stirred at 20° C. for 12 hours. Aqueous workup with DCM extraction gave the crude product, which was purified by silica gel column (PE/EtOAc=50/1) to give product (177 mg, yield 69%) as a white solid.

reactant | 2-chloro-4-fluoro-6-methoxyquinoline | 1.32 mmol, 280 mg | ClC1=NC2=CC=C(C=C2C(=C1)F)OC | C10H7ClFNO
reactant | BBr3 | 3.2 mmol, 0.3 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-fluoroquinolin-6-ol | 177 mg, yield 69% | ClC1=NC2=CC=C(C=C2C(=C1)F)O | C9H5ClFNO
